US20010001799A1
2.0 g of 3-[2-(5,5-dimethyl-[1,3]dioxan-2-yl)-4,5-dimethoxy-phenyl]-5-methyl-[1,2,4] -oxadiazole were stirred in 100 ml of acetone in the presence of 10 ml of concentrated HCl for 3 hrs. at room temperature. Then, the pH of the reaction mixture was adjusted to 7 with saturated NaHCO3 solution, the acetone was removed in a vacuum and the mixture was extracted with ethyl acetate. After removal of the solvent the residue was purified by column chromatography (CH2Cl2/ethyl acetate) and there were obtained 1.12 g of 4,5-dimethoxy-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-benzaldehyde as a white solid; MS: 248 ([M]+).

reactant | 3-[2-(5,5-dimethyl-[1,3]dioxan-2-yl)-4,5-dimethoxy-phenyl]-5-methyl-[1,2,4] -oxadiazole | 2.0 g | CC1(COC(OC1)C1=C(C=C(C(=C1)OC)OC)C1=NOC(=N1)C)C | C17H22N2O5
reactant | HCl | 10 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4,5-dimethoxy-2-(5-methyl-[1,2,4]oxadiazol-3-yl)-benzaldehyde | 1.12 g | COC1=CC(=C(C=O)C=C1OC)C1=NOC(=N1)C | C12H12N2O4
